US04478635
A solution of 4.9 g (0.0225 mole) of 2-chlorophenylsulfonyl isocyanate and 3.5 g (0.02 mole) of 2-amino-4-difluoromethoxy-6-methylpyrimidine in 70 ml of dioxan is stirred for 2 hours at 60°-70° C. The reaction mixture is filtered and the filtrate is concentrated. The residue is triturated with ether to give 3.8 g (49.9% of theory) of N-(2-chlorophenylsulfonyl)-N'-(4-difluoromethoxy-6-methylpyridin-2-yl)urea with a melting point of 169°-170° C.

reactant | 2-chlorophenylsulfonyl isocyanate | 0.0225 mole, 4.9 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-4-difluoromethoxy-6-methylpyrimidine | 0.02 mole, 3.5 g | NC1=NC(=CC(=N1)OC(F)F)C | C6H7F2N3O
reactant | dioxan | 70 ml | O1CCOCC1 | C4H8O2
product | N-(2-chlorophenylsulfonyl)-N'-(4-difluoromethoxy-6-methylpyridin-2-yl)urea | 3.8 g, 49.9% | ClC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=CC(=C1)OC(F)F)C | C14H12ClF2N3O4S
